US06498163B1
A mixture of 8-methyl-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one (152 mg, 0.63 mmol) in 2.5 mL of 70% aqueous ethylamine was stirred at room temperature for 10 minutes. The reaction mixture was partitioned between ethyl acetate and water, and the organic layer was washed with saturated sodium bicarbonate and brine, dried over magnesium sulfate, and concentrated in vacuo to give 105 mg (82%) of 2-ethylamino 8-methyl-8H-pyrido[2,3-d]pyrimidin-7-one, mp 194-195° C.

reactant | 8-methyl-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.63 mmol, 152 mg | CN1C(C=CC2=C1N=C(N=C2)S(=O)(=O)C)=O | C9H9N3O3S
reactant | ethylamine | 2.5 mL | C(C)N | C2H7N
product | 2-ethylamino 8-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 105 mg, 82% | C(C)NC=1N=CC2=C(N1)N(C(C=C2)=O)C | C10H12N4O
